US06265426B1
Pyrrolidin-1-ylmethyl-benzoic acid methyl ester hydrochloride salt (1:1)
A solution of methyl-3-(bromomethyl)benzoate (7 g, 30.5 mmol) in toluene (170 ml) was heated with pyrrolidine (4.5 g, 64.1 mmol, 2.1 eq.) for at 80° C. for 17 hrs. After addition of Na2CO3, and extraction of the aqueous phase with EtOAc, the organic phase was washed with brine and dried with Na2SO4 Solvent evaporation then afforded the crude product as a yellow oil. This material was dissolved in MeCN and a slight excess of 6N HCl/iPrOH added. After stirring for 30 min. the hydrochloride salt was filtered off and washed with ether to afford the title compound (5 g, 19.5 mmol, 64% yield) as a white solid. MS: m/e=219 (M+).

reactant | methyl-3-(bromomethyl)benzoate | 30.5 mmol, 7 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | pyrrolidine | 64.1 mmol, 4.5 g, 2.1 eq. | N1CCCC1 | C4H9N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl iPrOH | 6N | Cl.CC(C)O
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeCN | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Pyrrolidin-1-ylmethyl-benzoic acid methyl ester hydrochloride salt | 19.5 mmol, 5 g, 64% yield | Cl.COC(C1=C(C=CC=C1)CN1CCCC1)=O | InChI=1S/C13H17NO2.ClH/c1-16-13(15)12-7-3-2-6-11(12)10-14-8-4-5-9-14;/h2-3,6-7H,4-5,8-10H2,1H3;1H
